US06949579B2
N-(5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide
0.87 cm3 of pyridine is added to 1 g of N-[6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 30 cm3 of chloroform, followed by addition of 0.56 cm3 of bromine, and the mixture is refluxed overnight. 50 cm3 of dichloromethane and 50 cm3 of aqueous 10% sodium thiosulphate solution are added to the reaction medium. After stirring for 10 minutes, the insoluble material is removed by filtration on a sinter funnel and the organic phase is washed with 50 cm 3 of water and with 50 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The crude product, 1.1 g, is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 230 mg of N-(5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide are obtained in the form of a colourless oil.

reactant | pyridine | 0.87 cm3 | N1=CC=CC=C1 | C5H5N
reactant | N-[6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | FC1=CC=C2C(=NN(C2=C1F)COCC[Si](C)(C)C)NC(CCC)=O | C17H25F2N3O2Si
reactant | bromine | 0.56 cm3 | BrBr | Br2
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 30 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | N-(5-bromo-6,7-difluoro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl)butanamide | BrC=1C=C2C(=NN(C2=C(C1F)F)COCC[Si](C)(C)C)NC(CCC)=O | C17H24BrF2N3O2Si
